US09227978B2
1-(4-(2-(4,5-Dichloro-2-ethylphenylamino)acetyl)piperazin-1-yl)prop-2-en-1-one
To a mixture of above crude 2-(4,5-dichloro-2-ethylphenylamino)-1-(piperazin-1-yl)ethanone hydrochloride (82 mg) and Et3N (69 mg, 0.686 mmol) in DCM (3 mL) 0° C., a solution of acryloyl chloride (23 mg, 0.251 mmol) in DCM (1 mL) was added. The resulting mixture was stirred at room temperature for 1 h and then was quenched withed saturated NaHCO3 solution. The mixture was diluted with ethyl acetate, washed with saturated NaHCO3 solution and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (DCM/MeOH=30:1) to afford the desired product (20 mg, 18.76% yield, 2 steps) as an off-white solid. 1H NMR (400 MHz, CDCl3) δ: 7.11 (s, 1H), 6.58 (dd, J=10.4, 16.4 Hz, 1H), 6.54 (s, 1H), 6.36 (dd, J=1.6, 16.4 Hz, 1H), 5.79 (dd, J=1.6, 10.4 Hz, 1H), 5.08 (bs., 1H), 3.89-3.52 (m, 10H), 2.52 (q, J=7.2 Hz, 2H), 1.29-1.26 (t, J=7.6 Hz, 3H). ESI-MS m/z: 370.2[M+H]+.

reactant | 2-(4,5-dichloro-2-ethylphenylamino)-1-(piperazin-1-yl)ethanone hydrochloride | 82 mg | Cl.ClC1=CC(=C(C=C1Cl)NCC(=O)N1CCNCC1)CC
reactant | Et3N | 0.686 mmol, 69 mg | CCN(CC)CC | C6H15N
reactant | acryloyl chloride | 0.251 mmol, 23 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(2-(4,5-Dichloro-2-ethylphenylamino)acetyl)piperazin-1-yl)prop-2-en-1-one | 20 mg, 18.76% yield | ClC1=CC(=C(C=C1Cl)NCC(=O)N1CCN(CC1)C(C=C)=O)CC | C17H21Cl2N3O2
